US04152433
To a solution of 2,2,2-trichloroethyl 2-methyl-7-(2-hydroxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylate (a mixture of syn and anti isomers) (0.51 g.) in ethanol (10 ml.) was added thiourea (0.068 g.), and the mixture was stirred for 1 hour at room temperature. The reaction mixture was concentrated under reduced pressure. To the residue were added ethyl acetate and water with stirring, and the ethyl acetate layer was separated. The remaining aqueous layer was adjusted to pH 7 and extracted with ethyl acetate. The ethyl acetate layer and extract were combined together, washed with water, dried over magnesium sulfate and then concentrated. The residue was pulverized in diethyl ether, collected by filtration and then dried to give pale brown powder of 2,2,2-trichloroethyl 2-methyl-7-[2-hydroxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn isomer), which can be represented as 2,2,2-trichloroethyl 2-methyl-7-[2-hydroxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn isomer), mp 175° to 178° C. (dec.).

reactant | 2,2,2-trichloroethyl 2-methyl-7-(2-hydroxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylate | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(C(C(CBr)=O)=NO)=O)=O | C14H13BrCl3N3O6S
reactant | thiourea | 0.068 g | NC(=S)N | CH4N2S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2,2,2-trichloroethyl 2-methyl-7-[2-hydroxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(C(C=2N=C(SC2)N)=NO)=O)=O | C15H14Cl3N5O5S2
